US08735436B2
Preparation of (S)-2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaenyloxy)butanoic acid
Hydrogen peroxide (35% in water, 0.75 mL, 8.54 mmol) and lithium hydroxide monohydrate (0.18 g, 4.27 mmol) was added to a solution of (4S,5R)-3-((S)-2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaenyloxy)butanoyl)-4-methyl-5-phenyloxazolidin-2-one (1.10 g, 2.13 mmol) in tetrahydrofuran (12 mL) and water (4 mL) held at 0° C. under nitrogen. The reaction mixture was stirred at 0° C. for 30 minutes. 10% Na2SO3(aq) (30 mL) was added, the pH was adjusted to ˜2 with 2M HCl and the mixture was extracted twice with heptane (30 mL). The combined organic extract was dried (Na2SO4), filtered and concentrated. The residue was subjected to flash chromatography on silica gel using increasingly polar mixtures of heptane and ethyl acetate (98:8→1:1) as eluent. Concentration of the appropriate fractions afforded 0.48 g (60% yield) of the title compound as an oil. 1H-NMR (300 MHz, CDCl3): δ 0.90-1.00 (m, 6H), 1.48 (m, 2H), 1.65 (m, 2H), 1.85 (m, 2H), 2.10 (m, 4H), 2.80-2.90 (m, 8H), 3.55 (m, 1H), 3.60 (m, 1H), 3.88 (t, 1H), 5.35-5.45 (m, 10H); MS (electro spray): 373.3 [M−H]−; [α]D+37° (c=0.104, ethanol)

reactant | Hydrogen peroxide | 8.54 mmol, 0.75 mL | OO | H2O2
reactant | lithium hydroxide monohydrate | 4.27 mmol, 0.18 g | O.[OH-].[Li+]
reactant | (4S,5R)-3-((S)-2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaenyloxy)butanoyl)-4-methyl-5-phenyloxazolidin-2-one | 2.13 mmol, 1.10 g | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)O[C@H](C(=O)N1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)CC | C34H47NO4
reactant | Na2SO3 | 30 mL | [O-]S(=O)[O-].[Na+].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | water | 4 mL | O | H2O
product | (S)-2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaenyloxy)butanoic acid | 0.48 g, 60% yield | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)O[C@H](C(=O)O)CC | C24H38O3
